US08008501B2
A solution of 4-hydroxy-7-trifluoromethylquinoline (1 g) in dichloromethane (10 mL) and POCl3 (1 mL) was refluxed for half an hour. Then the reaction mixture was quenched with water (80 mL) and sodium bicarbonate to pH 7. The aqueous solution was extracted with dichloromethane (2×60 mL). The organic layers were combined, dried, evaporated to give 4-chloro-7-trifluoromethylquinoline. LCMS: ret. time: 31.51 min.; purity: 100%; MS (m/e): 232 (MH+).

reactant | 4-hydroxy-7-trifluoromethylquinoline | 1 g | OC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C10H6F3NO
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | POCl3 | 1 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-7-trifluoromethylquinoline | ClC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C10H5ClF3N
